US09102654B2
Methyl 3-chloro-1-(pyridin-3-yl)-4,5-dihydro-1H-pyrazole-5-carboxylate (6c)
(E)-2-(2-(Pyridin-3-yl)hydrazono)acetic acid hydrochloride (13.6 g, 64.1 mmol) was stirred in ethyl acetate (250 mL). N-chlorosuccinimide (17.9 g, 131 mmol) was added and the reaction stirred for 10 minutes. Methyl acrylate (35.2 mL, 385 mmol) was added followed by addition of potassium bicarbonate (19.4 g, 192 mmol). Water (0.05 mL) was added and the mixture stirred at 18° C. The reaction temperature rose from 18 to 21° C. over 1 hour and the reaction was stirred for 20 hours. Water (300 mL) and saturated aqueous sodium carbonate (˜100 mL) were added. The mixture was filtered through Celite® and the filtrate was extracted with ethyl acetate (2×500 mL). The organic layers were dried and concentrated. The residue was purified by flash column chromatography using 50-100% ethyl acetate/hexanes as eluent to afford the desired product as an orange oil (10.1 g, 62.5%): 1H NMR (400 MHz, CDCl3) δ 8.30 (dd, J=2.9, 0.7 Hz, 1H), 8.18 (dd, J=4.7, 1.4 Hz, 1H), 7.38 (ddd, J=8.4, 2.9, 1.4 Hz, 1H), 7.19 (ddd, J=8.5, 4.7, 0.7 Hz, 1H), 4.81 (dd, J=12.4, 6.9 Hz, 1H), 3.79 (s, 3H), 3.56 (dd, J=17.8, 12.4 Hz, 1H), 3.34 (dd, J=17.8, 6.9 Hz, 1H); ESIMS m/z 240 ([M+H]+).

reactant | (E)-2-(2-(Pyridin-3-yl)hydrazono)acetic acid hydrochloride | 64.1 mmol, 13.6 g | Cl.N1=CC(=CC=C1)N\N=C\C(=O)O
reactant | N-chlorosuccinimide | 131 mmol, 17.9 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Methyl acrylate | 385 mmol, 35.2 mL | C(C=C)(=O)OC | C4H6O2
reactant | potassium bicarbonate | 192 mmol, 19.4 g | C([O-])(O)=O.[K+]
reactant | sodium carbonate | ˜100 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 300 mL | O | H2O
solvent | Water | 0.05 mL | O | H2O
product | Methyl 3-chloro-1-(pyridin-3-yl)-4,5-dihydro-1H-pyrazole-5-carboxylate | 10.1 g, 62.5% | ClC1=NN(C(C1)C(=O)OC)C=1C=NC=CC1 | C10H10ClN3O2
